US08604211B2
Preparation of 3-mercapto-N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide (Compound 251
Triethylsilane (76 μL, 0.48 mmol, 5.0 equiv) and trifluoroacetic acid (710 μL, 5.7 mmol, 100 equiv) were sequentially added to a stirred solution of N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)-3-(tritylthio)propanamide (50 mg, 0.096 mmol, 1.0 equiv) in dichloromethane (1.3 mL) at 23° C. The resulting solution was stirred at 23° C. for 30 m. The reaction mixture was diluted with a saturated solution of sodium bicarbonate (40 mL) and extracted with ethyl acetate (3×30 mL). The combined organic layers were dried (Na2SO4), gravity-filtered, and concentrated by rotary evaporation. The residue was purified by silica gel column chromatography (ethyl acetate) to afford the title compound as a white powder (23 mg, 85%): mp 149-151° C.; 1H NMR (300 MHz, CDCl3) δ 9.17 (br s, 1H), 8.71 (m, 1H), 8.29 (m, 1H), 7.44 (dd, J=8, 5 Hz, 1H), 3.87 (s, 3H), 2.91-310 (m, 4H), 1.87 (t, J=8 Hz, 1H); ESIMS m/z 281 ([M+H]+).

reactant | Triethylsilane | 0.48 mmol, 76 μL, 5.0 equiv | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 5.7 mmol, 710 μL, 100 equiv | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)-3-(tritylthio)propanamide | 0.096 mmol, 50 mg, 1.0 equiv | CN(C(CCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=1SC(=NN1)C=1C=NC=CC1 | C30H26N4OS2
solvent | dichloromethane | 1.3 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
product | 3-mercapto-N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide | 23 mg, 85% | SCCC(=O)N(C=1SC(=NN1)C=1C=NC=CC1)C | C11H12N4OS2
